US05932745
[3-Chloro-4-(3-dimethylamino-prop-1-ynyl)-phenyl]-carbamic acid tert-butyl ester
To a deoxygenated solution of (3-chloro-4-iodo-phenyl)-carbamic acid tert-butyl ester (10.0 g) in triethylamine (120 ml) was added 1-dimethylamino-2-propyne (2.82 g), bis(triphenylphosphine)palladium(II) chloride (400 mg), and cuprous iodide (54 mg). The mixture was stirred at room temperature under an atmosphere of argon for approximately 6 hours, heated briefly (ca. 10 minutes) to 60° C. The reaction mixture was cooled, filtered through diatomaceous earth, and the solvent was removed by evaporation in vacuo. The residue was dissolved in ethyl acetate, washed three times with water, once with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed by evaporation in vacuo, and the residue was purified by chromatography over silica gel (80% ethyl acetate in hexanes was used as the eluant) to give the product as an amber oil that solidified on standing. MS (+ES) m/z: 309 (M+H)+.

reactant | (3-chloro-4-iodo-phenyl)-carbamic acid tert-butyl ester | 10.0 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)I)Cl)=O | C11H13ClINO2
reactant | 1-dimethylamino-2-propyne | 2.82 g | CN(CC#C)C | C5H9N
solvent | triethylamine | 120 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 400 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [3-Chloro-4-(3-dimethylamino-prop-1-ynyl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1)C#CCN(C)C)Cl)=O | C16H21ClN2O2
